US04272629
1α,2α,3β,5α)-2-Chloro-3-hydroxybicyclo[3,2,0]heptan-6-one
A mixture of 1 N sodium hypochlorite in 0.1 N sodium hydroxide (478 ml) and 2 N sulphuric acid (425 ml) was added to a solution of bicyclo[3,2,0]hept-2-ene-6-one (23.0 g) in acetone (500 ml). The resulting solution was stirred at room temperature for 24 hours.

reactant | sodium hypochlorite | 1 N | Cl[O-].[Na+]
reactant | bicyclo[3,2,0]hept-2-ene-6-one | 23.0 g | C12C=CCC2C(C1)=O | C7H8O
reactant | acetone | 500 ml | CC(=O)C | C3H6O
solvent | sodium hydroxide | 0.1 N, 478 ml | [OH-].[Na+]
solvent | sulphuric acid | 2 N, 425 ml | S(O)(O)(=O)=O | H2O4S
product | 2-Chloro-3-hydroxybicyclo[3,2,0]heptan-6-one | ClC1C2CC(C2CC1O)=O | C7H9ClO2
